US08648066B2
Commercially-available 5-bromo-2-hydroxybenzaldehyde (4.0 g, 10 mmol) and 2-aminoethanol were combined in THF/MeOH (100 mL, 10:1) and sodium borohydride (0.76 g, 2.0 mmol) was added with stirring. The resulting reaction mixture was stirred at 40° C. for 4 h, concentrated on a rotary evaporator then diluted with EtOAc (50 mL) and saturated NaHCO3 (30 mL). To this suspension was added di-tert-butyl dicarbonate (2.83 g, 13 mmol). The mixture was stirred at rt overnight. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated on a rotary evaporator. Hexane was subsequently added to the crude reaction product which resulted in the formation of a white solid. This slurry was filtered to obtain tert-butyl-5-bromo-2-hydroxybenzyl(2-hydroxyethyl)carbamate (6.8 g, 98%) as a white solid. MS (EI) for C14H20BrNO4, found 346 (MH+).

reactant | 5-bromo-2-hydroxybenzaldehyde | 10 mmol, 4.0 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | 2-aminoethanol | NCCO | C2H7NO
reactant | sodium borohydride | 2.0 mmol, 0.76 g | [BH4-].[Na+]
reactant | di-tert-butyl dicarbonate | 13 mmol, 2.83 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF MeOH | 100 mL | C1CCOC1.CO
product | tert-butyl-5-bromo-2-hydroxybenzyl(2-hydroxyethyl)carbamate | 6.8 g, 98% | C(C)(C)(C)OC(N(CCO)CC1=C(C=CC(=C1)Br)O)=O | C14H20BrNO4
